US09416090B2
Poly(Tyrosol Carbonate)
In a 500 mL 3-necked round-bottomed flask equipped with a mechanical stirrer, and a liquid addition device were placed 10 g (0.073 mol) of tyrosol, 24 ml (0.298 mol) of pyridine, 200 mL of DCM and stirred for 15 min to get a clear solution. Triphosgene (7.7 g, 0.078 mol of phosgene) was dissolved in 25 mL of DCM and the solution was introduced into the reaction flask over 2-3 hours. After the addition was complete, 250 mL of water was added to the reaction mixture and stirred for 5 min. After allowing the layers to separate, the top aqueous layer was removed and discarded. The washing was repeated with two additional 250 mL portions of DI water. The reaction mixture was then precipita-ted with 300 mL of IPA. The resulting gel was ground twice with 200 mL portions of IPA in 1 L laboratory blender. The product was isolated by vacuum filtration and dried in a vacuum oven at 60° C. The polymer had a HPSEC polystyrene equivalent molecular weight of 126 Kda (THF as mobile phase) and glass transition temperature (Tg) of 58° C. Compression molding at 195° C. gave a uniform transparent film which gave tensile modulus, tensile stress at yield, and elongation at break respectively of 19.1 ksi, 5 ksi and 450%.

reactant | tyrosol | 0.073 mol, 10 g | C1=CC(=CC=C1CCO)O | C8H10O2
reactant | pyridine | 0.298 mol, 24 ml | N1=CC=CC=C1 | C5H5N
reactant | Triphosgene | 0.078 mol, 7.7 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | 250 mL | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Tyrosol Carbonate | C1=CC(=CC=C1CCO)O.C([O-])([O-])=O | InChI=1S/C8H10O2.CH2O3/c9-6-5-7-1-3-8(10)4-2-7;2-1(3)4/h1-4,9-10H,5-6H2;(H2,2,3,4)/p-2
